US04282242
2-(4-Phenylbenzoylmethyl)imidazo [3,4-a]pyridinium Bromide
Imidazo[3,4-a]pyridine (7.1 g., 60 mmoles), dissolved in 150 ml. of ether, was mixed with p-phenylphenacyl bromide dissolved in 100 ml. of tetrahydrofuran and stirred for 4 hours at room temperature. A first crop of crystalline 2-(4-phenylbenzoylmethyl)imidazo[3,4-a]pyridinium bromide [7.8 g., m.p. 258°-260° C. (dec.)] was recovered by filtration. After standing four days at room temperature, a second crop of crystallized product [9.5 g., m.p. 262°-264° C. (dec.)] was recovered from the filtrate.

reactant | Imidazo[3,4-a]pyridine | 60 mmoles, 7.1 g | C=1N=CN2C1C=CC=C2 | C7H6N2
reactant | ether | CCOCC | C4H10O
reactant | p-phenylphenacyl bromide | C1(=CC=CC=C1)C1=CC=C(C(CBr)=O)C=C1 | C14H11BrO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(4-Phenylbenzoylmethyl)imidazo [3,4-a]pyridinium Bromide | [Br-].C1(=CC=CC=C1)C1=CC=C(C(=O)C[N+]2=CN3C(C=CC=C3)=C2)C=C1 | InChI=1S/C21H17N2O.BrH/c24-21(15-22-14-20-8-4-5-13-23(20)16-22)19-11-9-18(10-12-19)17-6-2-1-3-7-17;/h1-14,16H,15H2;1H/q+1;/p-1
